US06514964B1
Pyridinium Chlorochromate (1.2 eq) was added to a solution of 2-bromo-5-methoxybenzyl alcohol (1 eq) and Celite (1.2 eq) in methylene chloride (0.30 M) at RT and the resulting mixture was stirred under nitrogen for 3 h. The mixture was filtered through a plug of silica rinsing with methylene chloride and concentrated in vacuo to give 2-bromo-5-methoxy benzaldehyde as a white solid. EI-MS m/z 232, 234 (M+NH4)+

reactant | Pyridinium Chlorochromate | 1.2 eq | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 2-bromo-5-methoxybenzyl alcohol | 1 eq | BrC1=C(CO)C=C(C=C1)OC | C8H9BrO2
solvent | methylene chloride | 0.30 M | C(Cl)Cl | CH2Cl2
product | 2-bromo-5-methoxy benzaldehyde | BrC1=C(C=O)C=C(C=C1)OC | C8H7BrO2
